US06090836
Step C: Preparation of methyl 3-ethoxy-4-(3-(3-(2,2-dimethylpropyl)-7-propyl-6-benz-[4,5]-isoxazoloxy)propyloxy)phenylacetate
To a solution of 3-ethoxy-4-(3-(3-(2,2-dimethylpropyl)-7-propyl-6-benz-[4,5]-isoxazoloxy)propyloxy)benzoate (184 mg, 0.392 mmole) in methylene chloride (2 mL) and DMF (2 drops) at 0° C. was added oxalyl chloride (36 μL, 0.411 mmole). The mixture was stirred at room temperature for 30 minutes and then concentrated in vacuo. The residue was concentrated in vacuo 3× from methylene chloride The final residue was dissolved in ether (5 mL) and treated with excess diazomethane in ether until the yellow color persisted. The yellow solution was stirred at room temperature for 3 hours. Nitrogen was bubbled through the solution for 5 minutes before concentrating in vacuo. The residue was dissolved in ethyl acetate and washed with 1N sodium bicarbonate, water, brine, dried over magnesium sulfate and concentrated in vacuo to give a yellow oil. The oil was dissolved in methanol (4 mL) and triethylamine (850 μL) and stirred with silver benzoate (37 mg, 0.16 mmole) at room temperature for 18 hours. Celite and brine were added and the mixture was filtered, washing with methanol. The filtrate was concentrated in vacuo and the residue partitioned with ethyl acetate and 1N HCl. The organic phase was washed with water, brine, dried over magnesium sulfate and concentrated in vacuo to give an oil. Thin layer chromatography on silica gel eluting with hexane:2-propanol (9:1) provided the crude title compound (104 mg). A second thin layer chromatography on silica gel eluting with ethyl acetate:hexane (15:85) afforded the title compound (30 mg) as an oil. NMR (CDCl3); δ 0.96 (t, 3H); 1.07 (s, 9H); 1.41 (t, 3H); 1.69 (m, 2H); 2.35 (m, 2H); 2.82 (s, 2H); 2.87 (t, 2H); 3.56 (s, 2H); 3.70 (s, 3H); 4.06 (q, 2H); 4.25 (t, 2H); 4.29 (t, 2H); 6.80 (d, 1H); 6.83 (d, 1H); 6.88 (d, 1H); 6.95 (d, 1H); 7.37 (d, 1H).

reactant | 3-ethoxy-4-(3-(3-(2,2-dimethylpropyl)-7-propyl-6-benz-[4,5]-isoxazoloxy)propyloxy)benzoate | 0.392 mmole, 184 mg | C(C)OC=1C=C(C(=O)[O-])C=CC1OCCCOC=1C=CC=2C(=NOC2C1CCC)CC(C)(C)C
reactant | oxalyl chloride | 0.411 mmole, 36 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 850 μL | C(C)N(CC)CC | C6H15N
reactant | hexane 2-propanol | CCCCCC.CC(C)O
reactant | methanol | 4 mL | CO | CH4O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
catalyst | silver benzoate | 0.16 mmole, 37 mg | C(C1=CC=CC=C1)(=O)[O-].[Ag+]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | methyl 3-ethoxy-4-(3-(3-(2,2-dimethylpropyl)-7-propyl-6-benz-[4,5]-isoxazoloxy)propyloxy)phenylacetate | 30 mg | C(C)OC=1C=C(C=CC1OCCCOC=1C=CC=2C(=NOC2C1CCC)CC(C)(C)C)CC(=O)OC | C29H39NO6
